US07989497B2
Step 1: 2-tert-Butyl-6-chloro-benzooxazole-7-sulfonic acid methoxy-methyl-amide
N,O-dimethylhydroxylamine (1.98 g, 2 equiv) was suspended in dry THF (20 ml) and cooled to 0° C. in an ice bath while stirring vigorously. Triethylamine (4.51 ml, 2 equiv) was added maintaining the temperature at 0° C. followed by dropwise addition of 2-tert-butyl-6-chloro-benzooxazole-7-sulfonyl chloride (US 2007/0249672 page 9) (5 g, 16.22 mmol, 1 equiv) in THF (10 ml) over 30 minutes. The reaction mixture was stirred at 0° C. for 1 h and then allowed to warm to room temperature overnight. The resulting mixture was filtered and concentrated in vacuo and the resulting solid was dissolved in EtOAc (75 ml), washed with water (3×20 ml), sat. brine (30 ml) dried (MgSO4) and concentrated in vacuo to afford the title compound as a solid; [M+H]+ 333.

reactant | N,O-dimethylhydroxylamine | 1.98 g, 2 equiv | CNOC | C2H7NO
reactant | Triethylamine | 4.51 ml, 2 equiv | C(C)N(CC)CC | C6H15N
reactant | 2-tert-butyl-6-chloro-benzooxazole-7-sulfonyl chloride | 16.22 mmol, 5 g, 1 equiv | C(C)(C)(C)C=1OC2=C(N1)C=CC(=C2S(=O)(=O)Cl)Cl | C11H11Cl2NO3S
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 2-tert-Butyl-6-chloro-benzooxazole-7-sulfonic acid methoxy-methyl-amide | CON(S(=O)(=O)C1=C(C=CC=2N=C(OC21)C(C)(C)C)Cl)C | C13H17ClN2O4S
